US05034551
The cyclohexane extracts (containing DSDA) were combined and concentrated to an oil which was added hot (over 70° C.) in a thin stream over 5 min to a very vigorously agitated solution of 1.1 N aqueous sodium hydroxide (300 ml) at 95° C. Granules of DBTO were rapidly formed. The DBTO slurry was agitated vigorously at 90°-95° C. for 10-15 minutes, then cooled to 30° C. and filtered. The DBTO cake was thoroughly washed with water (3×100 ml) and dried (25-33% loss on drying).

reactant | DSDA | C1=CC2=C(C=C1S(=O)(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O8S
solvent | cyclohexane | C1CCCCC1 | C6H12
product | DBTO | C1=CC=C2C(=C1)C3=CC=CC=C3S2=O | C12H8OS
